US05604229
(3) 2-(5-Octyl-2-thienyl)ethanol
Tetrahydrofuran (20 ml) and p-toluenesulfonic acid (0.3 g) were added to a solution (80 ml) of the above-mentioned compound (6.5 g) in methanol and the mixture was stirred at room temperature for 1 hour. The solvent was distilled away and ethyl acetate was added to the resulting mixture. The mixture was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was distilled away and the residue obtained was purified by silica gel column chromatography (eluent; hexane:ethyl acetate=5:1) to give 4 g of the subject compound as an oil.

reactant | Tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | p-toluenesulfonic acid | 0.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | CO | CH4O
product | 2-(5-Octyl-2-thienyl)ethanol | 4 g | C(CCCCCCC)C1=CC=C(S1)CCO | C14H24OS
